Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest Pain 
 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___

 
History of Present Illness:
Mr. ___ is a ___ with PMHx of HTN not on medical 
therapy who presented with radiating chest pain on ___ 
evening. Patient reported episodic chest pain during rest that 
began on ___. On day of admission, he had chest pain at 6 AM, 7 
AM, 1800, and ___, with each episode lasting ___ minutes. 
Pain described as intense/crushing pain with radiation to the 
left arm. During each the event with dyspnea and diaphoresis. On 
arrival to the ED, he was initially pain free. At 1230 AM of 
___ he developed acute onset chest pain that lasted 
approximately 5 minutes. Repeat EKG showed STE in V1-2 and 
patient was taken to the cardiac cath lab, which revealed a 
critical mid LAD stenosis (95%) for ___.
 
Past Medical History:
HTN (no medications)
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
PHYSICAL EXAM:  
 VS: 98 148/60 78 18 99% RA  
 GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI.  
 CARDIAC: RR, normal S1, S2. No murmurs/rubs/gallops.  
 LUNGS: CTAB in anterior lung fields  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: No c/c/e. Right wrist access w/ TR band in place  

DISHCARGE PHYSICAL EXAM
 VS: Temp, BP, HR, RR % RA  
 GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI.  
 CARDIAC: RR, normal S1, S2. No murmurs/rubs/gallops.  
 LUNGS: CTAB in anterior lung fields  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: No c/c/e. Right wrist access w/ TR band in place
 
Pertinent Results:
ADMISSION LABS
___ 09:08PM BLOOD WBC-8.7 RBC-5.25 Hgb-15.9 Hct-48.2 MCV-92 
MCH-30.3 MCHC-33.0 RDW-12.7 RDWSD-43.0 Plt ___
___ 09:08PM BLOOD Neuts-67.0 ___ Monos-6.3 Eos-1.0 
Baso-0.5 Im ___ AbsNeut-5.80 AbsLymp-2.16 AbsMono-0.55 
AbsEos-0.09 AbsBaso-0.04
___ 09:08PM BLOOD ___ PTT-30.9 ___
___ 09:08PM BLOOD Glucose-127* UreaN-11 Creat-0.9 Na-135 
K-6.7* Cl-101 HCO3-26 AnGap-15
___ 09:08PM BLOOD cTropnT-<0.01
___ 01:21AM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:45AM BLOOD CK-MB-2 cTropnT-0.01
___ 06:45AM BLOOD Calcium-8.7 Phos-3.8 Mg-2.2 Cholest-134
___ 10:32PM BLOOD K-3.9

DISCHARGE LABS 
___ 06:50AM BLOOD WBC-7.2 RBC-4.76 Hgb-15.0 Hct-43.7 MCV-92 
MCH-31.5 MCHC-34.3 RDW-12.8 RDWSD-42.9 Plt ___
___ 06:50AM BLOOD Glucose-103* UreaN-14 Creat-0.9 Na-139 
K-4.3 Cl-103 HCO3-25 AnGap-15
___ 06:50AM BLOOD Calcium-8.9 Phos-4.0 Mg-2.2
___ 06:45AM BLOOD %HbA1c-5.2 eAG-103
___ 06:45AM BLOOD Triglyc-121 HDL-49 CHOL/HD-2.7 LDLcalc-61

IMAGING AND DIAGNOSTICS
CATH Report-Unstable angina with high risk ECG findings 
(Anterior dynamic ST-elevations, TWI).Mid LAD critical stenosis. 
Successful placement of 3.5 x 16 DES from proximal to mid-LAD.

ECHO Report-The left atrium and right atrium are normal in 
cavity size. There is mild symmetric left ventricular 
hypertrophy with normal cavity size. There is mild regional left 
ventricular systolic dysfunction with hypokinesis of the distal 
septum (LAD territory). The remaining segments contract normally 
(LVEF = 55%). Tissue Doppler imaging suggests an increased left 
ventricular filling pressure (PCWP>18mmHg). There is no 
ventricular septal defect. Right ventricular chamber size and 
free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. No aortic regurgitation is seen. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
The estimated pulmonary artery systolic pressure is normal. 

IMPRESSION: Mild regional left ventricular systolic dysfunction, 
c/w CAD.  

 
Brief Hospital Course:
Mr. ___ is ___ year old man with hypertension, who presented to 
the ED on ___ evening with intermittent radiating chest pain 
with associated dyspnea and diaphoresis, found on EKG to have 
prominent TWI in V1-V4 and dynamic STE in V1-V2 several hours 
after admission with associated chest pain. Negative troponins x 
2, with third troponin 0.01 post catheterization. He underwent 
cardiac catheterization via right radial artery, which found 95% 
occlusion of mid-LAD. He had a drug eluding stent placed and was 
started on aspirin and ticagrelor. However, ticagrelor was 
changed to Plavix, as our case management team is unable to get 
prior authorization for the medication as he is from ___ and 
therefore has ___ insurance. He was also started on 
carvedilol for beta-blockade and blood pressure control; 
atorvastatin added to regimen as well. TTE showed LVEF of 55% 
and mild regional left ventricular systolic dysfunction, 
consistent with CAD.

HbA1c 5.2%, LDL 61, HDL 49, nonfasting ___ 121. 

Transitional Issues: 
#Patient should be on aspirin and Plavix for AT LEAST ___ year 
given DES placed to LAD
#ECHO findings revealed LVEF of 55% and mild regional left 
ventricular systolic dysfunction, consistent with CAD.
#Follow up blood pressure control
#Patient will need to schedule follow up in ___ with primary 
care physician and cardiologist; he has neither.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*3 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3 
3.  Carvedilol 6.25 mg PO BID 
RX *carvedilol 6.25 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*3 
4.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Acute Coronary Syndrome. Wellens Syndrome
Secondary Diagnosis: Hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your hospitalization 
at the ___. You were admitted 
because you had a blockage in a heart vessel that caused your 
heart to not receive enough oxygen, and this caused chest pain 
and the symptoms you have been experiencing over the past 
several weeks. You underwent a procedure to look at your heart 
vessels, called a cardiac catheterization. You had a stent 
placed to open up the blocked heart vessel. 

You were also started on two new medications, clopidogrel 
(Plavix) and aspirin. It is very important you take both of 
these medications every single day, as not taking them could 
lead to blockage in the heart stent, heart attack, and even 
death.   

We were able to get you an appointment in the ___ area in 3 
weeks. We know you are going to ___ soon, so if you cannot 
come to this appointment that is OK, but you MUST see a doctor 
in ___. We strongly recommend you make an appointment with a 
heart doctor AND ___ primary care doctor in ___. Your daughter 
who lives in ___ says she will help with this.

If you have chest pain and/or shortness of breath, dizziness, or 
any other concerning symptoms, please seek medical attention. 

We wish you the best of luck in your health.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___